US06426345B1
A mixture of 2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]-3-nitropyridine (1.30 g) and 10% palladium on carbon (0.3 g) in ethanol (20 ml) and 1,4-dioxane (20 ml) was stirred under hydrogen (3 atm) at room temperature for 1 hours. The catalyst was removed by filtration and the solvent was evaporated. The resulting solid was collected and washed with isopropyl ether to give 3-amino-2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]pyridine (992 mg).

reactant | 2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]-3-nitropyridine | 1.30 g | C1(CCCC1)OC=1C=C(C=CC1OC)NC1=NC=CC=C1[N+](=O)[O-] | C17H19N3O4
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-amino-2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]pyridine | 992 mg | NC=1C(=NC=CC1)NC1=CC(=C(C=C1)OC)OC1CCCC1 | C17H21N3O2
